US07678917B2
In analogy to example 1C, 1R,3S,4S)-3-hydroxy-4-[(thiophene-2-carbonyl)-amino]-cyclo-pentanecarboxylic acid methyl ester was reacted with 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (CAS 536747-52-1, prepared according to C. F. Bigge et al., patent application WO 2003045912) to give thiophene-2-carboxylic acid {(1S,2S,4R)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-hydroxy-cyclopentyl}-amide. Light yellow solid. MS: 442.1 ([M+H]+).

reactant | 3-hydroxy-4-[(thiophene-2-carbonyl)-amino]-cyclo-pentanecarboxylic acid methyl ester | COC(=O)C1CC(C(C1)NC(=O)C=1SC=CC1)O | C12H15NO4S
reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
product | thiophene-2-carboxylic acid {(1S,2S,4R)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-hydroxy-cyclopentyl}-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)[C@H]1C[C@@H]([C@H](C1)NC(=O)C=1SC=CC1)O | C22H20FN3O4S
